US03968121
Following a procedure similar to that of Example 1E but using 28.53 g. of 1-(4-hydroxyphenyl)-2-phenylindole, 300 ml. of chlorobenzene, 5.45 g. of sodium methoxide in 68 ml. dry methyl alcohol, and 15 g. of N-(2-chloroethyl)diethylamine there was obtained 35 g. of crude product, 32 g. of which was converted to 30.1 g. of 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenylindole p-toluenesulfonate; m.p. 123°-124°C. (isopropyl alcohol). A solution of the free base in chloroform was shaken with a slight excess of concentrated hydrochloric acid in water, the layers were separated, dried and concentrated. The residue was dissolved in isopropyl alcohol, concentrated, and diluted with ethyl acetate. The resulting solids were filtered to give 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenylindole hydrochloride; m.p. 154°-155°C.

reactant | 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenylindole p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C)N(CCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1)CC
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-{4-[2-(diethylamino)ethoxy]phenyl}-2-phenylindole hydrochloride | Cl.C(C)N(CCOC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1)CC | InChI=1S/C26H28N2O.ClH/c1-3-27(4-2)18-19-29-24-16-14-23(15-17-24)28-25-13-9-8-12-22(25)20-26(28)21-10-6-5-7-11-21;/h5-17,20H,3-4,18-19H2,1-2H3;1H
